US05665718
1.8 g (5 mmol) of (S)-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one were stirred at room temperature for 2 hours with 2 g (34 mmol) of propylamine and 20 ml of N,N-dimethylformamide. By evaporation of the solvent and chromatography of the residue on silica gel while eluting with ethyl acetate/methanol 9/1 there were obtained 1.4 g (73%) of (S)-7-fluoro-1-(5-propylaminomethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one, which was converted into the hydrochloride (amorphous).

reactant | (S)-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 5 mmol, 1.8 g | ClCC1=NC(=NO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC(=C3)F)=O)CC1 | C16H11ClFN5O2
reactant | propylamine | 34 mmol, 2 g | C(CC)N | C3H9N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (S)-7-fluoro-1-(5-propylaminomethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 1.4 g, 73% | FC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C4=NOC(=N4)CNCCC)CC3)=O)C1 | C19H19FN6O2
